US05123951
A mixture of 50 grams (0.27 mole) of diethyl ethylidenemalonate, 455 grams (4.02 moles) of 30% hydrogen peroxide, 17.6 gram (0.053 mole) of sodium tungstate dihydrate and 400 milliliters of ethanol was stirred and heated at 80° C. for one hour, cooled to room temperature and stirred for an additional hour. Ethanol was removed under reduced pressure and the produce extracted into dichloromethane (3×200 milliliters), the extract then water-washed, dried (MgSO4), filtered and solvent removed to give the crude product. Vacuum distillation gave 40.45 grams (0.20 mole) of diethyl 3-methyloxirane-2,2-dicarboxylate having a boiling point of 120° C. at 4millimeters of Hg.

reactant | diethyl ethylidenemalonate | 0.27 mole, 50 grams | C(C)=C(C(=O)OCC)C(=O)OCC | C9H14O4
reactant | hydrogen peroxide | 4.02 moles, 455 grams | OO | H2O2
catalyst | sodium tungstate dihydrate | 0.053 mole, 17.6 gram | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
solvent | ethanol | 400 milliliters | C(C)O | C2H6O
product | diethyl 3-methyloxirane-2,2-dicarboxylate | 0.20 mole, 40.45 grams | CC1C(O1)(C(=O)OCC)C(=O)OCC | C9H14O5
